US03936453
To a suspension of 0.4 g. of sodium hydride in 25 ml. of dimethylacetamide is added 2.0 g. of 1-(4'-fluorobenzyl)-2-methylamino-quinazolin-4(1H)-one. The resulting mixture is stirred for 30 minutes at room temperature and there is then added 1.5 g. of methyliodide. The resulting mixture is stirred at room temperature for 3 days, poured over ice/water, extracted twice with methylene chloride, washed twice with water, dried and evaporated in vacuo. The residue is dissolved in methylene chloride and the methylene chloride exchanged for ether on a steam bath to obtain 1-(4'-fluorobenzyl)-2-dimethylamino-quinazolin-4(1H)-one, m.p. 160°-169°C.

reactant | sodium hydride | [H-].[Na+]
reactant | 1-(4'-fluorobenzyl)-2-methylamino-quinazolin-4(1H)-one | FC1=CC=C(CN2C(=NC(C3=CC=CC=C23)=O)NC)C=C1 | C16H14FN3O
reactant | methyliodide | CI | CH3I
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | 1-(4'-fluorobenzyl)-2-dimethylamino-quinazolin-4(1H)-one | FC1=CC=C(CN2C(=NC(C3=CC=CC=C23)=O)N(C)C)C=C1 | C17H16FN3O
